US08426441B2
B. 1-(4,4-Dimethyl-pent-2-ynyl)-3-[2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea
To a cooled solution of 2-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine (29 mg, 0.13 mmol) in 2.4 mL of dichloromethane were added 0.11 mL (0.66 mmol) of diisopropylethylamine and 78 uL of a 20% solution of phosgene in toluene at 0 C. The reaction mixture was stirred at 0 C for 20 minutes and transferred into a flask containing 140 mg (18% pure, 0.17 mmol) of dimethyl-pent-2-ynylamine. The reaction mixture was stirred at RT for 18 hour then applied to column chromatography without workup. Chromatography (0->50% in hexanes/ethyl acetate in 30 minutes) gave 27 mg (73 umol, 60%) of the title compound.

reactant | 2-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 0.13 mmol, 29 mg | CC1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)N | C13H20BNO2
reactant | diisopropylethylamine | 0.66 mmol, 0.11 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | dimethyl-pent-2-ynylamine | 0.17 mmol, 140 mg | CN(CC#CCC)C | C7H13N
reactant | dichloromethane | 2.4 mL | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(4,4-Dimethyl-pent-2-ynyl)-3-[2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea | 73 umol, 27 mg, 60% | CC(C#CCNC(=O)NC1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)(C)C | C21H31BN2O3
